US07384961B2
5.5 g 2-[(benzylmethylamino)methyl]-1-pyridin-3-ylcyclohexanol hydrochloride and 27.5 ml thionyl chloride were heated at a bath temperature of 75° C. for one hour. After the mixture had been concentrated in vacuo, the residue was taken up in ethyl acetate and sodium hydroxide solution (32 percent strength by weight) and the organic phase was separated off, dried and concentrated. The crude product obtained (3.7 g) was chromatographed on silica gel with diisopropyl ether/ethyl acetate (V/V=2:1). 1.23 g benzylmethyl-(2-pyridin-3-ylcyclohex-1-enylmethyl)amine were obtained, and were dissolved in approx. 25 ml acetone and converted into the corresponding hydrochloride with 1.66 μl water and 1.18 ml chlorotrimethylsilane.

reactant | 2-[(benzylmethylamino)methyl]-1-pyridin-3-ylcyclohexanol hydrochloride | 5.5 g | Cl.C(C1=CC=CC=C1)CNCC1C(CCCC1)(O)C=1C=NC=CC1
reactant | thionyl chloride | 27.5 ml | S(=O)(Cl)Cl | Cl2OS
product | benzylmethyl-(2-pyridin-3-ylcyclohex-1-enylmethyl)amine | 1.23 g | C(C1=CC=CC=C1)CNCC1=C(CCCC1)C=1C=NC=CC1 | C20H24N2
